Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug)
 
Attending: ___.
 
Chief Complaint:
Shortness of Breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F w/PMH notable for HTN, hypothyroidism, and PMR who p/w 
dyspnea on exertion. The patient states that starting about 3 
weeks ago she started feeling unwell with shortness of breath 
when walking up stairs. This has progressed over the past 3 
weeks, and she is now occasionally SOB even at rest. She also 
endorses mild increase in lower extremity swelling over the past 
1.5 weeks. She endorse URI symptoms and a non-productive cough 
over the past 10 days, for which she had a negative CXR and 
10-day course of penicillin (finished 1 day prior to admission). 
She denies fevers, chills. She denies chest pain, abdominal 
pain, lightheadedness, N/V/D, additional complaints.

Pt also reports that she has not been taking her levothyroxine 
or statin.    

In the ED, initial vitals: 97.4  65  139/63  18  95%RA  
 - Labs notable for: D-dimer 239, Trop-T <0.01, WBC 11.0, Hct 
48, proBNP: 186 
 - Imaging notable for: CXR - No acute cardiopulmonary 
abnormality. 
 - Vitals prior to transfer: 

On arrival to the floor, pt reports feeling short of breath even 
at rest. 

ROS:  
No fevers, chills, night sweats, or weight changes. No changes 
in vision or hearing, no changes in balance. No cough, no 
shortness of breath, no dyspnea on exertion. No chest pain or 
palpitations. No nausea or vomiting. No diarrhea or 
constipation. No dysuria or hematuria. No hematochezia, no 
melena. No numbness or weakness, no focal deficits.  
 
Past Medical History:
Anxiety
Depression
Polymyalgia rheumatic
Right lumbosacral radiculopathy
Carotid stenosis (right)
GERD
Gout
HTN   
Hypothyroidism   
Smooth muscle stromal tumor of ileum  
Meniere's disease
H/o knee surgery s/p cartilage removal
 
Social History:
___
Family History:
Coronary artery disease - Mother, sister
CHF - mother
Lung cancer - Father
Kidney cancer - son, nephew
___ - daughter (deceased)
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals- 98 147/72 52 18 91%RA
General- Alert, oriented, no acute distress  
HEENT- Sclerae anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- CTAB no wheezes, rales, rhonchi  
CV- RRR, Nl S1, S2, No MRG  
Abdomen- soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding, no organomegaly  
GU- no foley  
Ext- mild pretibial nonpitting edema
Neuro- CNs2-12 intact, motor function grossly normal  

DISCHARGE PHYSICAL EXAM:
Vitals- 98.0 118/71 54 18 95%RA
General- Alert, oriented, no acute distress  
HEENT- Sclerae anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- CTAB no wheezes, rales, rhonchi  
CV- RRR, Nl S1, S2, No MRG  
Abdomen- obese, soft, NT/ND bowel sounds present, no rebound 
tenderness or guarding, no organomegaly appreciated
GU- no foley
Ext- WWP, no edema
Neuro- CNs2-12 intact, motor function grossly normal  

 
Pertinent Results:
ADMISSION LABS:
___ 12:13PM BLOOD WBC-11.0* RBC-5.21* Hgb-15.6 Hct-48.0* 
MCV-92 MCH-29.9 MCHC-32.5 RDW-12.6 RDWSD-42.3 Plt ___
___ 12:13PM BLOOD Neuts-59.5 ___ Monos-7.5 Eos-1.5 
Baso-0.5 Im ___ AbsNeut-6.53* AbsLymp-3.36 AbsMono-0.83* 
AbsEos-0.17 AbsBaso-0.06
___ 12:13PM BLOOD Glucose-80 UreaN-11 Creat-0.7 Na-142 
K-3.8 Cl-103 HCO3-26 AnGap-17
___ 05:27AM BLOOD LD(LDH)-162
___ 12:13PM BLOOD proBNP-186
___ 12:13PM BLOOD cTropnT-<0.01
___ 06:55PM BLOOD CK-MB-3 cTropnT-<0.01
___ 12:13PM BLOOD D-Dimer-239
___ 12:13PM BLOOD TSH-3.2
___ 05:27AM BLOOD TSH-1.7

MICROBIOLOGY:
Immunoflourescent test for Pneumocystis jirovecii (___): 
NEGATIVE

IMAGING:
CXR ___: No acute cardiopulmonary abnormality. 

CT Chest ___: 1.There is no evidence of interstitial lung 
disease. 2.Coronary calcifications   3.Fatty liver   4.No 
evidence of active intrathoracic infection or malignancy.  
___ in the right lower lobe, if patient does not 
have risk of lung cancer no follow-up is required 

ECHO ___: The left atrium is normal in size. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF = 65%). Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. There is mild pulmonary artery 
systolic hypertension. There is no pericardial effusion. 
Compared with the prior study (images reviewed) of ___, 
resting findings are similar.  

NUCLEAR STRESS TEST ___: No anginal type symptoms or 
significant ST segment changes.
FINDINGS:  Left ventricular cavity size is normal. Rest and 
stress perfusion images reveal uniform tracer uptake throughout 
the left ventricular myocardium.   
Gated images reveal normal wall motion. The calculated left 
ventricular ejection fraction is 64%, compared to 80% in ___.   

IMPRESSION:  No significant change since ___.  No evidence of 
ischemia or 
infarction.
 
Brief Hospital Course:
___ yo F w/history of HTN, hypothyroidism, and PMR who presented 
with subacute dyspnea on exertion.

#Dyspnea - 3 week history of subacute onset of dyspnea on 
exertion without clear cause. No hypoxia or desaturation on this 
admission.  CXR, Hi-res CT of Lung, D-dimer, Echo, Nuclear 
Stress Test, TSH, EKG, BNP, and Troponins were all negative for 
pathology to explain dyspnea. She was feeling slightly better 
upon discharge compared to admission. Upon Discharge 
differential included deconditioning, beta blocker over-use, or 
intrinsic lung disease without structural abnormality.

#HTN - continued amlodipine and spironolactone. Due to 
bradycardia and dyspnea on exertion, began taper of atenolol.  
37.5mg daily x 7 days (___), then 37.5mg every other day x 
7 days (___) then off.

#Hypothyroidism - TSH wnl. Continued home levothyroxine

Chronic Issues
#Anxiety - continued home lorazepam
#PMR - continued home prednisone
#Chronic back pain - continued home tramadol
#GERD - continued home omeprazole PRN

Transitional Issues:
1.Dyspnea: current inpatient workup negative. Differential at 
this time is deconditioning, beta-blocker use, or some intrinsic 
lung disease without structural abnormality. We have asked the 
patient to taper her atenolol to 37.5mg daily x 7 days, then 
37.5mg every other day x 7 days, then off. If no improvement, 
consider PFTs as outpatient and possible pulmonology referral. 
Echo showed mild pulmonary artery hypertension and this could be 
investigated if the rest of workup is negative.
2.HTN: consider starting new agent once atenolol is tapered off.
3. Micro-nodules in the right lower lobe on chest CT. Due to 
low-risk and nodules <4mm, no follow-up necessary per ___ 
___ criteria.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 7.5 mg PO DAILY 
2. Atenolol 75 mg PO DAILY 
3. HydrOXYzine 25 mg PO Q6H:PRN anxiety 
4. Levothyroxine Sodium 25 mcg PO DAILY 
5. Lorazepam 0.5 mg PO DAILY:PRN anxiety 
6. Omeprazole 20 mg PO DAILY:PRN acid reflux 
7. PredniSONE 10 mg PO DAILY 
8. Spironolactone 12.5 mg PO DAILY 
9. TraMADOL (Ultram) 50 mg PO BID:PRN pain 
10. Meclizine 12.5 mg PO ONCE:PRN dizziness 
11. Vitamin D 800 UNIT PO DAILY 
12. Calcium Carbonate 1500 mg PO DAILY 
13. Multivitamins 1 TAB PO DAILY 
14. Acetaminophen 1000 mg PO Q6H 
15. Diazepam ___ mg PO DAILY:PRN dizziness 

 
Discharge Medications:
1. Amlodipine 7.5 mg PO DAILY 
2. Atenolol 37.5 mg PO DAILY 
RX *atenolol 25 mg 1.5 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
3. Calcium Carbonate 1500 mg PO DAILY 
4. HydrOXYzine 25 mg PO Q6H:PRN anxiety 
5. Levothyroxine Sodium 25 mcg PO DAILY 
6. Lorazepam 0.5 mg PO DAILY:PRN anxiety 
7. Omeprazole 20 mg PO DAILY:PRN acid reflux 
8. PredniSONE 10 mg PO DAILY 
9. Spironolactone 12.5 mg PO DAILY 
10. TraMADOL (Ultram) 50 mg PO BID:PRN pain 
11. Acetaminophen 1000 mg PO Q8H:PRN pain 
12. Multivitamins 1 TAB PO DAILY 
13. Vitamin D 800 UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Dyspnea
Polymyalgia Rheumatica

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because you were short of 
breath when you walked. We did an extensive workup while you 
were here and could not find a reason for your dyspnea. You 
should follow up with your PCP and discuss further testing, 
which we will recommend completing as an outpatient.

Sincerely,
Your ___ Team
 
Followup Instructions:
___